Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest fullness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ otherwise healthy F who presents to the ED 
for
evaluation of chest pain which she reports began abruptly at 1PM
today while she was at work. She reports that the pain started 
at
the ___ her chest and spread to her back and under her
shoulder blades. She characterizes it as sharp and states that 
at
present it also extends to her neck. She denies exacerbating or
alleviating factors. She denies recent trauma to her neck/chest.
She denies recent procedures/instrumentation of her airway or
esophagus. She denies any recent history of vomiting,
dry-heaving, significant coughing. She does note that yesterday
she experienced a single episode of abdominal pain which was
relieved after she passed a loose stool. She reports that she is
in her otherwise usual state of health.

 
Past Medical History:
Anxiety
Depression
IBS
Reflux, occasional

 
Social History:
___
FAMILY HISTORY:

Lives with husband, ___, who accompanies the patient at
bedside. She denies any personal tobacco use past or present, 
but
does state she was exposed to heavy second hand smoke from birth
until age ___. She denies illicit substance use. She endorses
occasional weekly alcohol consumption in social setting.

 
Family History:
non contributory
 
Physical Exam:
T 97.4 HR 72 BP 99/55 RR 20 ___ 97 on RA
GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:

HEENT          
[x] NC/AT   [x] EOMI   [x] PERRL/A   [x] Anicteric
[x] OP/NP mucosa normal     [x] Tongue midline
[x] Palate symmetric  [x] Neck supple/NT/without mass
[x] Trachea midline [x] Thyroid nl size/contour
[x] Abnormal findings: Pain on palpation of the neck,
particularly the right side. No crepitus

RESPIRATORY    
[x] CTA/P     [x] Excursion normal     [x] No fremitus
[x] No egophony    [x] No spine/CVAT
[x] Abnormal findings: Faint bibasilar crackles. No chest wall 
or
sternal crepitus. No ttp of chest wall.

CARDIOVASCULAR 
[x] RRR    [x] No m/r/g    [x] No JVD   [x] PMI nl  [x] No edema
[x] Peripheral pulses nl    [x] No abd/carotid bruit
[ ] Abnormal findings:

GI             
[x] Soft    [x] NT   [x] ND  [x] No mass/HSM   [x] No hernia
[ ] Abnormal findings:

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[x] Strength intact/symmetric    [x] Sensation intact/ symmetric
[x] Reflexes nl     [x] No facial asymmetry [x] Cognition intact
[x] Cranial nerves intact   [ ] Abnormal findings:

 
Pertinent Results:
___ 12:30AM   WBC-9.3 RBC-4.37 HGB-12.7 HCT-38.2 MCV-87 
MCH-29.1 MCHC-33.2 RDW-12.4 RDWSD-39.6
___ 12:30AM   NEUTS-66.9 ___ MONOS-6.4 EOS-1.8 
BASOS-0.2 IM ___ AbsNeut-6.23* AbsLymp-2.28 AbsMono-0.60 
AbsEos-0.17 AbsBaso-0.02
___ 12:30AM   ___ PTT-29.0 ___
___ 12:30AM   GLUCOSE-98 UREA N-13 CREAT-0.9 SODIUM-138 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-25 ANION GAP-14

___ Ba swallow :
No evidence of leak or obstruction. 
  
___ CXR :
There no prior chest radiographs available for review.  This 
examination is read in conjunction with chest CT on ___. 

Pneumomediastinum is comparable in size to the appearance on the 
chest CT.  Small right apical air collection could be pleural or 
extrapleural.  There is no pleural effusion.  Lungs are clear.  
Heart size 
  

 
Brief Hospital Course:
Mrs. ___ was evaluated by the Thoracic Surgery service in the 
Emergency Room and admitted to the hospital for observation 
following her presentation with pneumomediastinum and a right 
apical pneumothorax.  She remained afebrile with a WBC of 6K but 
was on Vancomycin and Zosyn for broad coverage.  Her chest xray 
on ___ showed no increase in her pneumomediastinum and her 
right apical pneumothorax was stable.  She then began a liquid 
diet which she tolerated well and had modest amounts of a soft 
diet which caused no issues.  Her chest and neck fullness seemed 
to decrease over the course of the day.  As she remained stable, 
she was discharged to home on ___ and will follow up in the 
Thoracic Clinic next week with Dr. ___.  She will have a chest 
xray prior to her visit.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Acetaminophen-Caff-Butalbital ___ TAB PO Q4H:PRN headache 
3. Lorazepam 0.5 mg PO Q8H:PRN anxiety 

 
Discharge Medications:
1. Acetaminophen-Caff-Butalbital ___ TAB PO Q4H:PRN headache 
2. Citalopram 20 mg PO DAILY 
3. Lorazepam 0.5 mg PO Q8H:PRN anxiety 
4. Acetaminophen 1000 mg PO Q8H:PRN pain 
5. Sarna Lotion 1 Appl TP QID:PRN pruritis 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pneumomediastinum
Right apical pneumothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for observation after 
developing chest fullness and shoulder discomfort yesterday. A 
barium swallow was done which ruled out an esophageal 
perforation. There's always a possibility that you had a micro 
perforation which sealed over which could explain the CT scan 
findings. Your chest xray is stable with a tiny right apical 
pneumothorax and your oxygen saturations have been normal.

* You should stay well hydrated to avoid any migraines and eat a 
soft diet for the next few days, avoiding any hard or crunchy 
food.

* Check your temperature twice a day for the next few days and 
call Dr. ___ it's > 101 or if you develop shaking chills , 
increased pain, shortness of breath or any new symptoms that 
concern you.

* You will need a chest xray prior to your appointment with Dr. 
___ week.
 
Followup Instructions:
___